### PR TITLE
[Merged by Bors] - chore(Algebra/BigOperators/Finsupp): deprecate `Finsupp.sum_sum_index'`

### PR DESCRIPTION
**Pull request by euprunin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Finsupp/Basic.lean [hunk 1]
```diff
@@ -582,10 +582,7 @@ theorem Finsupp.sum_apply'' {A F : Type*} [AddZeroClass A] [AddCommMonoid F] [Fu
     · simp [hgadd, hadd]
 
 theorem Finsupp.sum_sum_index' (h0 : ∀ i, t i 0 = 0) (h1 : ∀ i x y, t i (x + y) = t i x + t i y) :
-    (∑ x ∈ s, f x).sum t = ∑ x ∈ s, (f x).sum t := by
-  classical
-  exact Finset.induction_on s rfl fun a s has ih => by
-    simp_rw [Finset.sum_insert has, Finsupp.sum_add_index' h0 h1, ih]
+    (∑ x ∈ s, f x).sum t = ∑ x ∈ s, (f x).sum t := (sum_finset_sum_index h0 h1).symm
```
Comment (riccardobrasca) [inline Mathlib/Algebra/BigOperators/Finsupp/Basic.lean:587]: Do we really need both results?

Comment (euprunin) [reply Mathlib/Algebra/BigOperators/Finsupp/Basic.lean:587]: Good point! Now deprecating `Finsupp.sum_sum_index'` instead.

File: Mathlib/Algebra/BigOperators/Finsupp/Basic.lean [hunk 2]
```diff
@@ -579,11 +579,7 @@ theorem Finsupp.sum_apply'' {A F : Type*} [AddZeroClass A] [AddCommMonoid F] [Fu
     · simp [hg0, h0]
     · simp [hgadd, hadd]
 
-theorem Finsupp.sum_sum_index' (h0 : ∀ i, t i 0 = 0) (h1 : ∀ i x y, t i (x + y) = t i x + t i y) :
-    (∑ x ∈ s, f x).sum t = ∑ x ∈ s, (f x).sum t := by
-  classical
-  exact Finset.induction_on s rfl fun a s has ih => by
-    simp_rw [Finset.sum_insert has, Finsupp.sum_add_index' h0 h1, ih]
+@[deprecated (since := "2025-08-22")] alias Finsupp.sum_sum_index' := Finsupp.sum_finset_sum_index
```
Comment (riccardobrasca) [inline Mathlib/Algebra/BigOperators/Finsupp/Basic.lean]: The two declarations are not exactly the same, right? There is a `symm` or something I think.

**Comment by euprunin** [comment]
@riccardobrasca Sorry I think I misunderstood. Is the suggestion to deprecate `Finsupp.sum_sum_index'` without making the deprecation an `alias` (since the two declarations are not exactly the same)?

**Comment by riccardobrasca** [comment]
> `Finsupp.sum_sum_index`

Yeah, something like that. What is precisely the difference? One is `a = b` and the other `b = a`?

**Comment by riccardobrasca** [comment]
I don't think there is a perfect solution here, and maybe having the deprecation is a good idea.

**Comment by euprunin** [comment]
@riccardobrasca Now deprecating `Finsupp.sum_sum_index` with a reference to `sum_finset_sum_index` (without aliasing):

```
@[deprecated sum_finset_sum_index (since := "2025-11-07")]
theorem Finsupp.sum_sum_index' …
```

Looks good?

Let me know I misunderstood the suggestion.

**Comment by euprunin** [comment]
@riccardobrasca 

Good idea! Done!

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
